Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Zoloft / Amoxicillin / Augmentin / methocarbamol / hayfever / 
ciprofloxacin
 
Attending: ___.
 
Chief Complaint:
Pancreatic cyst 
 
Major Surgical or Invasive Procedure:
___: 
1. Exploratory laparoscopy. 
2. Robot-assisted radical anterograde modular 
pancreatosplenectomy with resection of Gerota's fascia and 
adjacent omentum. 
3. Celiac, left gastric, peripancreatic and perisplenic 
lymphadenectomy. 
4. Placement of gold fiducials. 

 
History of Present Illness:
The patient is a ___ woman who has undergone prior left 
adrenalectomy for pheochromocytoma.  She has been incidentally 
found to have a cystic lesion in the pancreatic tail with 
high-risk features.  Her preoperative serum tumor markers are 
within normal limits. She is now taken to the operating room for 
surgical resection of a potential malignancy.

 
Past Medical History:
PMH:
HTN, HLD, DM type II, CHF, hypothyroidism, adrenal adenoma, 
GERD, OSA,Asthmatic bronchitis, Hep C, diverticulitis, disc 
herniation, cervical spondylosis, kidney stones, colon polyp

PSH:
left adrenalectomy, total thyroidectomy ___, anterior cervical 
disc excisions and fusions ___

 
Social History:
___
Family History:
former smoker, rare EtOH, denies illicit drugs
 
Physical Exam:
Prior To Discharge:
VS: 98.5, 76, 155/82, 16, 95% RA
GEN: Pleasant with NAD
HEENT: NC/AT, PERRL, EOMI, no scleral icterus 
CV: RRR
PULM: CTAB
ABD: Laparoscopic incisions open to air and c/d/I. LLQ JP drain 
with minimal amount of dark, serous fluid. Site with drain 
sponge and c/d/I. 
EXTR: Left knee tenderness without swelling 

 
Pertinent Results:
RECENT LABS:

___ 09:30AM BLOOD WBC-16.8* RBC-3.14* Hgb-9.8* Hct-30.1* 
MCV-96 MCH-31.2 MCHC-32.6 RDW-12.8 RDWSD-43.8 Plt ___
___ 09:30AM BLOOD Glucose-155* UreaN-11 Creat-0.7 Na-141 
K-4.2 Cl-104 HCO3-20* AnGap-17
___ 09:30AM BLOOD Calcium-9.2 Phos-2.7 Mg-2.0
___ 04:16AM BLOOD %HbA1c-6.2* eAG-131*

RADIOLOGY:
___ KUB:
FINDINGS:  
No dilated loops of bowel seen. 
There is no free intraperitoneal air. 
There is no acute osseous abnormality seen. 
There are surgical clips and surgical drain projecting over the 
left upper 
quadrant.

PATHOLOGY: Pending  

 
Brief Hospital Course:
The patient with accidently diagnosed pancreatic tail cyst was 
admitted to the Surgical Oncology Service for elective surgical 
resection. On ___, the patient underwent Robot-assisted 
radical anterograde modular pancreatosplenectomy with celiac, 
left gastric, peripancreatic and perisplenic lymphadenectomy, 
which went well without complication (please see the Operative 
Note for details). After a brief, uneventful stay in the PACU, 
the patient arrived on the floor NPO, on IV fluids, with a foley 
catheter, and dPCA for pain control.  The patient was 
hemodynamically stable.
On POD 1, patient's diet was advanced to clears, Foley catheter 
was discontinued, and she was transitioned to oral pain 
medication. She developed severe nausea, and was started on 
Zofran, Lorazepam, and Scopolamine patch. Patient was made NPO, 
and restated back on dPCA. On POD 2, nausea subsided, and diet 
was advanced to clears. On POD 3, developed dry hives, backed to 
NPO again. ___ service was consulted secondary to elevated 
blood glucose. She was started on small dose of Lantus. On POD 
4, nausea improved, and diet was advanced to clears, she was 
started on bowel regiment. On POD 5, moved her bowels, tolerated 
clears, she was transitioned to oral pain medications. On POD 6, 
advanced to regular diet, which was well tolerated. Patient was 
restarted on home dose Metformin and lantus was discontinued. 
Metformin dose was increased to BID, and patient was provided 
with prescriptions for Glucometer and diabetic supply. She was 
instructed to check her finger stick every morning before meals, 
and if ___ will be more then 150 for 3 days, she was instructed 
to follow up with her Endocrinologist. Patient complained about 
left knee pain on POD 5, knee radiograph was negative for 
fracture. ACE wrap was applied and ___ consult was ordered. ___ 
recommended home ___, and patient was discharged with crutches.   

At the time of discharge, the patient was doing well, afebrile 
with stable vital signs.  The patient was tolerating a regular 
diabetic diet, ambulating with crutches, voiding without 
assistance, and pain was well controlled.  The patient received 
discharge teaching and follow-up instructions with understanding 
verbalized and agreement with the discharge plan.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. albuterol sulfate 1.25 mg/3 mL inhalation Q4H:PRN Cough, SOB, 
wheeze 
2. Atenolol 25 mg PO BID 
3. Atorvastatin 10 mg PO QHS 
4. Cyclobenzaprine 10 mg PO TID 
5. Levothyroxine Sodium 88 mcg PO 6 DAYS WEEKLY 
6. Lisinopril 5 mg PO DAILY 
7. MetFORMIN (Glucophage) 500 mg PO QHS 
8. Polyethylene Glycol 17 g PO DAILY:PRN Constipation - First 
Line 

 
Discharge Medications:
1.  Acetaminophen ___ mg PO Q8H:PRN Pain - Mild/Fever 
do not exceed more then 3000 mg/day  
2.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*60 Capsule Refills:*0 
3.  MetFORMIN XR (Glucophage XR) 500 mg PO BID 
You were taking 500 mg QHS, frequency was increased to 500 mg 
BID 
RX *metformin 500 mg 1 tablet(s) by mouth twice a day Disp #*60 
Tablet Refills:*0 
4.  OneTouch UltraSoft Lancets (lancets) 1 lancet  miscellaneous 
QIDACHS 
RX *lancets [OneTouch Delica Lancets] 33 gauge 1 lancet QIDACHS 
Disp #*1 Box Refills:*1 
5.  OneTouch Verio System (blood-glucose meter) 1 kit 
miscellaneous QIDACHS 
RX *blood-glucose meter [OneTouch Verio System]  1 KIT QIDACHS 
Disp #*1 Kit Refills:*0 
6.  OneTouch Verio (blood sugar diagnostic) 1 test strip 
miscellaneous QIDACHS 
RX *blood sugar diagnostic [OneTouch Verio]  1 test strip 
QIDACHS Disp #*1 Box Refills:*1 
7.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - 
Moderate 
RX *oxycodone 5 mg 1 tablet(s) by mouth every six (6) hours Disp 
#*16 Tablet Refills:*0 
8.  Pantoprazole 40 mg PO Q24H 
RX *pantoprazole 40 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
9.  Senna 8.6 mg PO BID  
10.  Cyclobenzaprine 10 mg PO TID:PRN muscle spasm   
11.  albuterol sulfate 1.25 mg/3 mL inhalation Q4H:PRN Cough, 
SOB, wheeze  
12.  Atenolol 25 mg PO BID  
13.  Atorvastatin 10 mg PO QPM  
14.  Levothyroxine Sodium 88 mcg PO 6X/WEEK (___)  

15.  Lisinopril 5 mg PO DAILY  
16.  Polyethylene Glycol 17 g PO DAILY  
17.Outpatient Physical Therapy
CRUTCHES
DX: Pancreatectomy
PX: Good
___: 12 months 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
___ Diagnosis:
1. Pancreatic cyst (final pathology pending)
2. Left knee pain

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid 
(crutches).

 
Discharge Instructions:
Ms. ___, 
You were admitted to the surgery service at ___ for surgical 
resection of your pancreatic cyst. You have done well in the 
post operative period and are now safe to return home to 
complete your recovery with the following instructions:
.
Please call Dr. ___ office at ___ option 4 if you 
have any questions or concerns. During off hours: Call operator 
at ___ and ask to ___ team.
.
Please resume all regular home medications , unless specifically 
advised not to take a particular medication.  Also, please take 
any new medications as prescribed.
Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids.  Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
surgeon, who will instruct you further regarding activity 
restrictions.
Avoid driving or operating heavy machinery while taking pain 
medications.
Please follow-up with your surgeon and Primary Care Provider 
(PCP) as advised.
.
Incision Care:
*Please call your doctor or nurse practitioner if you have 
increased pain, swelling, redness, or drainage from the incision 
site.
*Avoid swimming and baths until your follow-up appointment.
*You may shower, and wash surgical incisions with a mild soap 
and warm water.  Gently pat the area dry.
.
JP Drain Care:
*Please look at the site every day for signs of infection 
(increased redness or pain, swelling, odor, yellow or bloody 
discharge, warm to touch, fever).
*Maintain suction of the bulb.
*Note color, consistency, and amount of fluid in the drain.  
Call the doctor, ___, or ___ nurse if the amount 
increases significantly or changes in character.
*Be sure to empty the drain frequently.  Record the output, if 
instructed to do so.
*You may shower; wash the area gently with warm, soapy water.
*Keep the insertion site clean and dry otherwise.
*Avoid swimming, baths, hot tubs; do not submerge yourself in 
water.
*Make sure to keep the drain attached securely to your body to 
prevent pulling or dislocation.

 

 
Followup Instructions:
___